US04379154
A 33% (weight/volume) solution of methylamine in ethanol (11 cc) is added dropwise, in the course of 5 minutes, to a solution of methyl 2-(pyrid-3-yl)-tetrahydrothiophen-2-carbodithioate (14.3 g) in ethanol (50 cc), kept at a temperature of about 20° C. The solution is subsequently stirred for 5 hours at the same temperature and then cooled to 0° C. The resulting crystals are filtered off, washed with ethanol (8 cc) and then twice with diisopropyl ether (20 cc in total) and dried under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. The product thus obtained (7.2 g) is dissolved in boiling ethanol (35 cc); decolourising charcoal (0.4 g) is added to the solution, which is filtered hot, and the filtrate is then cooled for 1 hour at a temperature of about 5° C. The resulting crystals are filtered off, washed with ethanol (5 cc) and then twice with diisopropyl ether (14 cc in total) and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 40° C. N-Methyl-2-(pyrid-3-yl)-tetrahydrothiophen-2-carbothioamide (5.8 g), melting at 133° C., is thus obtained.

reactant | methylamine | CN | CH5N
reactant | methyl 2-(pyrid-3-yl)-tetrahydrothiophen-2-carbodithioate | 14.3 g | N1=CC(=CC=C1)C1(SCCC1)C(=S)SC | C11H13NS3
reactant | charcoal | 0.4 g | C | CH4
solvent | ethanol | 11 cc | C(C)O | C2H6O
solvent | ethanol | 50 cc | C(C)O | C2H6O
solvent | ethanol | 35 cc | C(C)O | C2H6O
product | N-Methyl-2-(pyrid-3-yl)-tetrahydrothiophen-2-carbothioamide | 5.8 g | CNC(=S)C1(SCCC1)C=1C=NC=CC1 | C11H14N2S2
